US06069156
Methyl 2-ethyl-3-propionylindole-6-carboxylate (435 mg) was prepared from methyl 2-ethylindole-6-carboxylate (660 mg) and propionyl chloride (0.62 ml) in a similar manner to that of Preparation 1 (5).

reactant | methyl 2-ethylindole-6-carboxylate | 660 mg | C(C)C=1NC2=CC(=CC=C2C1)C(=O)OC | C12H13NO2
reactant | propionyl chloride | 0.62 ml | C(CC)(=O)Cl | C3H5ClO
product | Methyl 2-ethyl-3-propionylindole-6-carboxylate | 435 mg | C(C)C=1NC2=CC(=CC=C2C1C(CC)=O)C(=O)OC | C15H17NO3
